US04095033
Using the mode of operation set forth in Example 1--except for Experiment 31, wherein 15 ml. of monomer was employed--30 ml. (158 mmol.) of cyclododecene (mixture of isomers with 70.3% trans- and 29.7% cis-cyclododecene) was polymerized with a catalyst of varying amounts of cis,trans-1,5-cyclodecadiene and 1.5 ml. of a 0.1-molar solution of tungsten hexachloride in benzene. The results of Comparative Experiment B, as well as Experiments 31-38, are indicated in Table V.

reactant | cis,trans-1,5-cyclodecadiene | C/1=C/CC\C=C\CCCC1 | C10H16
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | tungsten hexachloride | [W](Cl)(Cl)(Cl)(Cl)(Cl)Cl
product | cyclododecene | 158 mmol | C1=CCCCCCCCCCC1 | C12H22
